US09079922B2
21.1. (RS)-3-((S)-3-benzyloxycarbonylamino-2-hydroxy-propylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester
The title compound was prepared in analogy to Example 17, step 17.1, starting from [(2R)-oxiranylmethyl]-carbamic acid benzyl ester (8.23 g; prepared according to WO 2004/002973) and rac-3-amino-1-Boc-pyrrolidine (7.40 g; commercial) in MeCN (300 mL), affording a colourless oil (10.7 g; 68% yield).

reactant | [(2R)-oxiranylmethyl]-carbamic acid benzyl ester | 8.23 g | C(C1=CC=CC=C1)OC(NC[C@H]1OC1)=O | C11H13NO3
reactant | rac-3-amino-1-Boc-pyrrolidine | 7.40 g | NC1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | MeCN | 300 mL | CC#N | C2H3N
product | (RS)-3-((S)-3-benzyloxycarbonylamino-2-hydroxy-propylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 68% yield | C(C)(C)(C)OC(=O)N1CC(CC1)NC[C@@H](CNC(=O)OCC1=CC=CC=C1)O | C20H31N3O5
